US05482967
To a solution of 4-(2-chlorophenyl)-1,2-dihydro-6,7-dimethyl-2-oxo-3-quinolinecarboxylic acid ethyl ester (2.0 g) in DMF (20 ml) was added sodium hydride (60% in oil) (270 mg), followed by stirring at room temperature for 30 minutes. To this solution was added isopropyl iodide (0.9 ml), followed by stirring at 70° C. for 5 hours. After the mixture was cooled, ethyl acetate was added, and this mixture was washed successively with dilute hydrochloric acid, aqueous potassium carbonate and water and then dried, after which the solvent was distilled off. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate=5:1), to yield 4-(2-chlorophenyl)-6,7-dimethyl-2-(1-methylethyloxy)-3-quinolinecarboxylic acid ethyl ester as colorless crystals (1.72 g).

reactant | 4-(2-chlorophenyl)-1,2-dihydro-6,7-dimethyl-2-oxo-3-quinolinecarboxylic acid ethyl ester | 2.0 g | C(C)OC(=O)C=1C(NC2=CC(=C(C=C2C1C1=C(C=CC=C1)Cl)C)C)=O | C20H18ClNO3
reactant | sodium hydride | 270 mg | [H-].[Na+]
reactant | isopropyl iodide | 0.9 ml | C(C)(C)I | C3H7I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(2-chlorophenyl)-6,7-dimethyl-2-(1-methylethyloxy)-3-quinolinecarboxylic acid ethyl ester | 1.72 g | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=C(C=CC=C1)Cl)C)C)OC(C)C | C23H24ClNO3
